US06914074B2
tert-Butyl[(3-bromo-8-chloro-(4-methoxyphenyl)-2-naphthyl)oxy]dimethylsilane
A solution of tert-butyl[(3,6-dibromo-8-chloro-2-naphthyl)oxy]dimethylsilane (1.95 g, 4.32 mmol), 4-methoxyphenylmagnesium bromide (13.8 mL of 0.5 N solution, 6.9 mmol), and tetrakis(triphenylphosphine)palladium (0.25 g, 0.21 mmol) in THF (10 mL) were stirred at reflux for 8 hr. The reaction was quenched with water (100 mL) and extracted with ethyl acetate (3×150 mL). The combined organic layers were washed with water, dried with sodium sulfate, filtered, evaporation of the solvent, and purified on a silica column (5% ethyl acetate—hexanes) to yield 1.42 g (69%) of the title compound as a white solid: 1H NMR (CDCl3): δ 0.36 (6H, s), 1.10 (9H, s), 3.87 (3H, s), 7.01 (2H, d, J=8.78 Hz), 7.33(1H,d, J=1.36 Hz), 7.58 (2H, d, J=8.75 Hz), 7.73 (1H, s), 7.78 (1H, d, J=1.62 Hz), 8.10 (1H, s).

reactant | tert-butyl[(3,6-dibromo-8-chloro-2-naphthyl)oxy]dimethylsilane | 4.32 mmol, 1.95 g | C(C)(C)(C)[Si](C)(C)OC1=CC2=C(C=C(C=C2C=C1Br)Br)Cl | C16H19Br2ClOSi
reactant | 4-methoxyphenylmagnesium bromide | 6.9 mmol, 0.5 N, 13.8 mL | COC1=CC=C(C=C1)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.21 mmol, 0.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl[(3-bromo-8-chloro-(4-methoxyphenyl)-2-naphthyl)oxy]dimethylsilane | 1.42 g, 69% | C(C)(C)(C)[Si](C)(C)OC1=C(C2=C(C=CC=C2C=C1Br)Cl)C1=CC=C(C=C1)OC | C23H26BrClO2Si
